US06500863B1
N-(2-benzyloxyethyl)-2,6-dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (2.0 g, 6.88 mmol), 2-benzyloxyethyl amine(1.04 g, 6.88 mmol) and triethylamine(1.92mL, 13.76 mmol) were reacted to form the desired product (2.31 g, 83%). 1H NMR (MeOD-d4): δ 7.69 (d, 1H), 7.53 (d, 1H), 7.25 (m, 3H), 7.14 (d, 2H), 4.26 (s, 2H), 3.45 (t, 2H), 3.36 (t, 2H).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 6.88 mmol, 2.0 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | 2-benzyloxyethyl amine | 6.88 mmol, 1.04 g | C(C1=CC=CC=C1)OCCN | C9H13NO
reactant | triethylamine | 13.76 mmol, 1.92mL | C(C)N(CC)CC | C6H15N
product | N-(2-benzyloxyethyl)-2,6-dichloro-3-nitrobenzenesulfonamide | 2.31 g, 83% | C(C1=CC=CC=C1)OCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C15H14Cl2N2O5S
